US04880795
Benzhydryl 3-chloromethyl-7α-phenylacetamido-3-cephem-4-carboxylate
24 ml (0.3 mole) of pyridine, 400 ul of dimethylformamide and 21.6 ml (0.3 mole) of thionyl chloride are added to a solution of 103 g (0.2 mole) of benzhydryl 3-hydroxymethyl-7β-phenylacetamido-3-cephem-4-carboxylate (prepared, for example, in accordance with Helv. Chim. Acta 57, 2044 (1974)) in 3.5 l of absolute tetrahydrofuran, while cooling with ice. After 10 minutes, the mixture is concentrated on a rotary evaporator, the residue is taken up in 2 l of ethyl acetate and the mixture is extracted by shaking twice with sodium bicarbonate solution and once with water. The organic phase is extracted by stirring with 50 g each of kieselguhr and active charcoal and the extract is filtered with suction over a frit covered with silica gel. The filtrate is then dried over magnesium sulphate and concentrated, the residue is taken up in 200 ml of methylene chloride and the product is precipitated with petroleum ether.

reactant | pyridine | 0.3 mole, 24 ml | N1=CC=CC=C1 | C5H5N
reactant | dimethylformamide | 400 ul | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 0.3 mole, 21.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | benzhydryl 3-hydroxymethyl-7β-phenylacetamido-3-cephem-4-carboxylate | 0.2 mole, 103 g | OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C29H26N2O5S
solvent | tetrahydrofuran | 3.5 l | O1CCCC1 | C4H8O
product | Benzhydryl 3-chloromethyl-7α-phenylacetamido-3-cephem-4-carboxylate | ClCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@@H]2NC(CC2=CC=CC=C2)=O)=O | C29H25ClN2O4S
